US07632829B2
4-(5-Methyl-[1,3,4]oxadiazol-2-yl)-piperidine
A suspension of 100 mg (0.33 mmol) of 4-(5-methyl-[1,3,4]oxadiazol-2-yl)-piperidine-1-carboxylic acid benzyl ester in 5 ml EtOAc and 10 mg Pd/C 10% was hydrogenated (1 atm) for 1 h. The reaction was filtered (Celite) and evaporated to give 55.4 mg (99%) of the title compound as white solid. MS: 167.9 (MH+).

reactant | 4-(5-methyl-[1,3,4]oxadiazol-2-yl)-piperidine-1-carboxylic acid benzyl ester | 0.33 mmol, 100 mg | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=1OC(=NN1)C | C16H19N3O3
solvent | EtOAc | 5 ml | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | 4-(5-Methyl-[1,3,4]oxadiazol-2-yl)-piperidine | 55.4 mg, 99% | CC1=NN=C(O1)C1CCNCC1 | C8H13N3O
